US07612211B2
C. hydroxy-{2-[2-(4-trifluoromethyl-phenoxymethyl)-1H-benzoimidazol-5-yl]-phenyl}-acetic acid
To a solution of hydroxy-{2-[2-(4-trifluoromethyl-phenoxymethyl)-1H-benzoimidazol-5-yl]-phenyl}-acetic acid methyl ester (0.312 g, 0.684 mmol) in mixed solvent (14 mL, MeOH: H2O=3:1) at rt was added lithium hydroxide (LiOH) (0.098 g, 4.10 mmol). After stirring for 12 hours, the reaction mixture was diluted with EtOAc and acidified with aqueous 3N HCl. The organic layer was washed with brine, dried over Na2SO4, filtered, and the filtrate was concentrated under reduced pressure to afford the title compound as a white solid (0.296 g, 98%).

reactant | hydroxy-{2-[2-(4-trifluoromethyl-phenoxymethyl)-1H-benzoimidazol-5-yl]-phenyl}-acetic acid methyl ester | 0.684 mmol, 0.312 g | COC(C(C1=C(C=CC=C1)C1=CC2=C(NC(=N2)COC2=CC=C(C=C2)C(F)(F)F)C=C1)O)=O | C24H19F3N2O4
reactant | MeOH | CO | CH4O
reactant | lithium hydroxide | 4.10 mmol, 0.098 g | [OH-].[Li+]
reactant | HCl | 3N | Cl | ClH
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | O | H2O
product | hydroxy-{2-[2-(4-trifluoromethyl-phenoxymethyl)-1H-benzoimidazol-5-yl]-phenyl}-acetic acid | 0.296 g, 98% | OC(C(=O)O)C1=C(C=CC=C1)C1=CC2=C(NC(=N2)COC2=CC=C(C=C2)C(F)(F)F)C=C1 | C23H17F3N2O4
